Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.6354021143
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:15]([H:16])[H:17].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],5.33015057642
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:11][H:12],-2.65253531071
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.62760660828
[C:4]#[C:5][H:6].[O:1][O:2][C:3][C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],-5.513615055419999
[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.76417446091
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-4.07294801756
[C:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4]=[O:5]>>[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],-1.18838314936
[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.57885408623
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.98663294171
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.21088779
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.712749087889
[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.7342369520290001
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],1.544714547
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.56857883335
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.50596317988
[H:1][C:2][C:3](=[O:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.49668556566
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[O:9][C:10]([H:11])([H:12])[H:13],3.2443437808
[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-2.93743907117
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12][H:13],5.00393311262
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:10][H:11].[H:9],2.15491356693
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],3.5288669557699994
[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.35764659058
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]=[C:10]([H:11])[H:12],0.805971209999
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],1.7454454993900002
[C:3]([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:4]([H:5])[H:6]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.26073282321
[C:1].[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.85764504985
